US05580870
Using an analogous procedure to that described in Example 1, 4-chloro-6-nitroquinazoline was reacted with 5-amino-1H-indazole to give in turn 4-(1H-indazol-5-ylamino)-6-nitroquinazoline hydrochloride in 68% yield, m.p. 289°-291° C., and the free base in quantitative yield.

reactant | 4-chloro-6-nitroquinazoline | ClC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 5-amino-1H-indazole | NC=1C=C2C=NNC2=CC1 | C7H7N3
product | 4-(1H-indazol-5-ylamino)-6-nitroquinazoline hydrochloride | 68% yield | Cl.N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | InChI=1S/C15H10N6O2.ClH/c22-21(23)11-2-4-14-12(6-11)15(17-8-16-14)19-10-1-3-13-9(5-10)7-18-20-13;/h1-8H,(H,18,20)(H,16,17,19);1H
